US05006548
Preparation of ethyl 2-[3-(2-thienyl)acrylamido]benzoate (Process b)
Under nitrogen stream, 2-chloro-1-methylpyridinium iodide (966 mg, 3.89 mmol) was suspended in dry methylene chloride (5 ml). To the suspension, a solution of 3-(2-thienyl)acrylic acid (500 mg, 3.24 mmol), triethylamine (1.08 ml, 7.78 mmol), and ethyl 2-aminobenzoate (0.48 ml, 3.24 mmol) in dry methylene chloride (5 ml) was added dropwise. After the addition, the mixture was heated under reflux for 39 hours. Then, the reaction mixture was diluted with methylene chloride, washed with 10% aqueous HCl, saturated aqueous sodium chloride, 1N-aqueous NaOH, and saturated aqueous sodium chloride successively, and dried. Removal of solvent gave a yellow solid, which was washed with n-hexane to give pale yellow solids of the title compound (442 mg, yield, 45%). m.p., 126°-127° C. (recrystallized from methanol)

reactant | 2-chloro-1-methylpyridinium iodide | 3.89 mmol, 966 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | 3-(2-thienyl)acrylic acid | 3.24 mmol, 500 mg | S1C(=CC=C1)C=CC(=O)O | C7H6O2S
reactant | triethylamine | 7.78 mmol, 1.08 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-aminobenzoate | 3.24 mmol, 0.48 ml | NC1=C(C(=O)OCC)C=CC=C1 | C9H11NO2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-[3-(2-thienyl)acrylamido]benzoate | 442 mg, 45% | S1C(=CC=C1)C=CC(=O)NC1=C(C(=O)OCC)C=CC=C1 | C16H15NO3S
